US04053601
A stirred mixture of 6-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-methoxypyridazine (0.36 g, 0.001 mole) and hydrazine hydrate (8 ml) was heated under reflux for 2 hours. Excess of hydrazine hydrate was removed under reduced pressure and 6-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-hydrazino pyridazine was isolated by crystallisation from ethanol-ether

reactant | 6-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-methoxypyridazine | 0.001 mole, 0.36 g | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C1=CC=C(N=N1)OC)O | C19H27N3O4
reactant | hydrazine hydrate | 8 ml | O.NN
product | 6-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-hydrazino pyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C1=CC=C(N=N1)NN)O | C18H27N5O3
